US05665718
38.8 g (133 mmol) of 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylic acid were dissolved in 200 ml of N,N-dimethylformamide, treated portionwise with 23.7 g (146 mmol) of 1,1'-carbonyldiimidazole and stirred at 70° for 20 min. After adding 43.73 g (199.5 mmol) of phthaloylglycine amidoxime the mixture was stirred at 90° for 1 hour. 1.5 ml of trifluoroacetic acid were added and the mixture was stirred at 90° overnight and at 120° for a further 3 hours. The suspension obtained was concentrated to half of its volume and cooled, and the precipitated crystals were filtered off. There were obtained 35.3 g (56%) of 7-chloro-5,6-dihydro-5-methyl-3-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 237°-239°.

reactant | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylic acid | 133 mmol, 38.8 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10ClN3O3
reactant | 1,1'-carbonyldiimidazole | 146 mmol, 23.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 7-chloro-5,6-dihydro-5-methyl-3-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 35.3 g, 56% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NC(=NO1)CN1C(C=2C(C1=O)=CC=CC2)=O)C)=O | C23H15ClN6O4
